US09034921B2
(3S,4R,5R,6R)-2-(2-(Allyloxy)-3-bromo-4-chloro-5-(4-ethoxybenzyl)phenyl)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran
To a solution of 2-bromo-3-chloro-4-(4-ethoxybenzyl)-6-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)phenol (500 mg, 0.579 mmole) in acetone (15 mL) were added K2CO3 (120 mg, 0.869 mmole) and allyl bromide (75 μL, 0.869 mmole) continuously. The resulting solution was stirred at 60° C. overnight, diluted with a saturated NaHCO3 and extracted with ethyl acetate. The organic layer was washed with water then brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was purified on Biotage® purification apparatus to yield the title compound (325 mg, 62%) as a colorless gum.

reactant | 2-bromo-3-chloro-4-(4-ethoxybenzyl)-6-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)phenol | 0.579 mmole, 500 mg | BrC1=C(C(=CC(=C1Cl)CC1=CC=C(C=C1)OCC)C1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)O | C49H48BrClO7
reactant | K2CO3 | 0.869 mmole, 120 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 0.869 mmole, 75 μL | C(C=C)Br | C3H5Br
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (3S,4R,5R,6R)-2-(2-(Allyloxy)-3-bromo-4-chloro-5-(4-ethoxybenzyl)phenyl)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran | 325 mg, 62% | C(C=C)OC1=C(C=C(C(=C1Br)Cl)CC1=CC=C(C=C1)OCC)C1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C52H52BrClO7
